US06342765B1
Methyl 4-[2-(imidazol-1-yl)-1-(4-fluorophenyl)ethoxy]-2-(4-fluorophenyl)benzoate was prepared from methyl 2-(4-fluorophenyl)-4-hydroxybenzoate and 2-(imidazol-1-yl)-1-(4-fluorophenyl)ethanol using the Mitsunobu reaction as described for the preparation of methyl 5-[2-(2-methylimidazol-1-yl 1-(4-fluorophenyl/ethoxy]-2-(4-fluorophenethyl)benzoate.

reactant | methyl 2-(4-fluorophenyl)-4-hydroxybenzoate | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)O | C14H11FO3
reactant | 2-(imidazol-1-yl)-1-(4-fluorophenyl)ethanol | N1(C=NC=C1)CC(O)C1=CC=C(C=C1)F | C11H11FN2O
product | Methyl 4-[2-(imidazol-1-yl)-1-(4-fluorophenyl)ethoxy]-2-(4-fluorophenyl)benzoate | N1(C=NC=C1)CC(OC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C25H20F2N2O3
